US05859014
substituting 1-chloro-3-{4-[4-fluoro-2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propane and 5,6-dihydro-2,4(1H,3H)-pyrimidinedione and recrystallizing from a solution of hydrochloric acid in alcohol gave 3-(3-{4-[4-fluoro-2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5,6-dihydro-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 186°-189° C.; Anal.: Calcd. for C19H24F4N5O3.(HCl)2 : C, 44.10; H, 5.06; N, 10.83%; Found: C, 43.99; H, 5.16; N, 10.78%; and

reactant | 1-chloro-3-{4-[4-fluoro-2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propane | ClCCCN1CCN(CC1)C1=C(C=C(C=C1)F)OCC(F)(F)F | C15H19ClF4N2O
reactant | 5,6-dihydro-2,4(1H,3H)-pyrimidinedione | N1C(NC(CC1)=O)=O | C4H6N2O2
product | 3-(3-{4-[4-fluoro-2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5,6-dihydro-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.FC1=CC(=C(C=C1)N1CCN(CC1)CCCN1C(NCCC1=O)=O)OCC(F)(F)F | InChI=1S/C19H24F4N4O3.ClH/c20-14-2-3-15(16(12-14)30-13-19(21,22)23)26-10-8-25(9-11-26)6-1-7-27-17(28)4-5-24-18(27)29;/h2-3,12H,1,4-11,13H2,(H,24,29);1H
